US08859580B2
(2R,6S)-2,2,2-Trifluoro-1-(10-methoxy-6,11,11-trimethyl-9-nitro-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocin-3-yl)-ethanone
Methyl iodide (80 μL) is added to a mixture of (2R,6S)-2,2,2-trifluoro-1-(10-hydroxy-6,11,11-trimethyl-9-nitro-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocin-3-yl)-ethanone (0.40 g) and potassium carbonate (0.17 g) in dimethylformamide (5 mL). The mixture is stirred at room temperature overnight, before another portion of methyl iodide (80 μL) and potassium carbonate (0.16 g) are added. The mixture is stirred for another 6 h at room temperature. Then, water and ethyl acetate are added, the organic phase is separated, and the aqueous phase is extracted with ethyl acetate. The combined organic phases are washed with brine and dried (Na2SO4). The solvent is evaporated to give the crude product that is used without further purification.

reactant | Methyl iodide | 80 μL | CI | CH3I
reactant | (2R,6S)-2,2,2-trifluoro-1-(10-hydroxy-6,11,11-trimethyl-9-nitro-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocin-3-yl)-ethanone | 0.40 g | FC(C(=O)N1[C@@H]2CC3=C([C@](CC1)(C2(C)C)C)C=CC(=C3O)[N+](=O)[O-])(F)F | C17H19F3N2O4
reactant | potassium carbonate | 0.17 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 80 μL | CI | CH3I
reactant | potassium carbonate | 0.16 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2R,6S)-2,2,2-Trifluoro-1-(10-methoxy-6,11,11-trimethyl-9-nitro-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocin-3-yl)-ethanone | FC(C(=O)N1[C@@H]2CC3=C([C@](CC1)(C2(C)C)C)C=CC(=C3OC)[N+](=O)[O-])(F)F | C18H21F3N2O4
